US05015260
320 mg of 10% palladium-on-carbon, 2.90 g (15.8 mmol) of 2-methyl-4-methoxy-5-nitrophenol and 75 ml of ethanol were fed into an autoclave (300 ml). The mixture was then hydrogenated at 50° C. under 50 kg/cm2 for 5 hours. After allowing to cool, the catalyst was filtered off and the solvent was distilled off under reduced pressure. Thus 19.0 g (12.4 mmol) of 2-methyl-4-methoxy-5-aminophenol was obtained in the form of brown crystals. The 1H-NMR spectra of this product showed no impurities. The yield was 78%.

reactant | 2-methyl-4-methoxy-5-nitrophenol | 15.8 mmol, 2.90 g | CC1=C(C=C(C(=C1)OC)[N+](=O)[O-])O | C8H9NO4
catalyst | palladium-on-carbon | 320 mg | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 2-methyl-4-methoxy-5-aminophenol | 12.4 mmol, 19.0 g, yield was 78% | CC1=C(C=C(C(=C1)OC)N)O | C8H11NO2
